US07598264B2
N-[6-(3-Chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide
A cold (0° C.) solution of N-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]methanesulfonamide (60 mg, 0.14 mmol) in anhydrous DMF (1 mL) was treated with sodium hydride (6.8 mg, 0.17 mmol; 60% dispersion in oil). The resultant mixture was stirred at the same temperature for 30 minutes, and treated with iodomethane (38 mg, 0.27 mmol). The reaction mixture was allowed to slowly warmed up to room temperature. The product mixture was concentrated under vacuum. The residue was partitioned between chloroform and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the title compound. ES MS M+1=458

reactant | N-[6-(3-chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]methanesulfonamide | 0.14 mmol, 60 mg | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)NS(=O)(=O)C)C)=O)OC)=O)C=CC1F | C18H19ClFN3O5S
reactant | sodium hydride | 0.17 mmol, 6.8 mg | [H-].[Na+]
reactant | iodomethane | 0.27 mmol, 38 mg | IC | CH3I
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[6-(3-Chloro-4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]-N-methylmethane-sulfonamide | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)N(S(=O)(=O)C)C)C)=O)OC)=O)C=CC1F | C19H21ClFN3O5S
